US05256675
A mixture of salt of potassium 2,4-difluorothiophenol (20 g), 2-acetamido-5-chlorothiazole (21 g) and potassium carbonate anhydrous (29.8 g) in N,N-dimethylformamide (400 ml) was stirred at 130° C. for 7 hours. The reaction mixture was concentrated under reduced pressure. The residue was triturated with water and the precipitates were collected by filtration, washed with water and dried in vacuo to give solid. The solid was subjected to column chromatography on silica gel (silica gel, 70-230 mesh; Merck: 750 g) and eluted with a mixture of chloroform and methanol (50:1). The fractions containing the objective compound were combined and evaporated to dryness in vacuo to give 2-acetamido-5-(2,4-difluorophenylthio)thiazole (11.91 g, yield: 38.5%). mp: 156°-170° C. (dec.) IR (Nujol): 3160, 3060, 1695, 1585, 1560, 1295 cm-1

reactant | potassium 2,4-difluorothiophenol | 20 g | FC1=C(C=CC(=C1)F)S.[K]
reactant | 2-acetamido-5-chlorothiazole | 21 g | C(C)(=O)NC=1SC(=CN1)Cl | C5H5ClN2OS
reactant | potassium carbonate | 29.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2-acetamido-5-(2,4-difluorophenylthio)thiazole | 11.91 g, yield: 38.5% | C(C)(=O)NC=1SC(=CN1)SC1=C(C=C(C=C1)F)F | C11H8F2N2OS2
